US09403801B2
Step 2) tert-butyl 9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecane-3-carboxylate
To a suspension of tert-butyl 9-((2,5-dichloropyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecane-3-carboxylate (241 mg, 0.56 mmol) and 1-methyl-1H-pyrazol-4-amine hydrochloride (172.32 mg, 1.29 mmol) in butan-1-ol (5 mL) was added DIPEA (217.14 mg, 1.68 mmol). The reaction mixture was stirred at 150° C. in a sealed tube overnight, then cooled down to rt, and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=100/1 to 10/1) to give the title compound as a white solid (198 mg, 72%).

reactant | tert-butyl 9-((2,5-dichloropyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 0.56 mmol, 241 mg | ClC1=NC=C(C(=N1)N(C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C)Cl | C20H30Cl2N4O2
reactant | 1-methyl-1H-pyrazol-4-amine hydrochloride | 1.29 mmol, 172.32 mg | Cl.CN1N=CC(=C1)N
reactant | DIPEA | 1.68 mmol, 217.14 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | butan-1-ol | 5 mL | C(CCC)O | C4H10O
product | tert-butyl 9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 198 mg, 72% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C | C24H36ClN7O2
